US08013008B2
benzyl (2S,3S)-3-ethyl-3-hydroxy-2-isopropylpyrrolidine-1-carboxylate
By an operation in the same manner as in Reference Example 3 and using cerium chloride (9.25 g), 3 mol/L ethylmagnesium bromide-diethyl ether solution (11.0 mL) and benzyl (2S)-2-isopropyl-3-oxopyrrolidine-1-carboxylate (3.92 g), the title compound was obtained as colorless oil (yield: 2.21 g, yield: 51%).

reactant | cerium chloride | 9.25 g | [Cl-].[Ce+3].[Cl-].[Cl-]
reactant | ethylmagnesium bromide diethyl ether | 3 mol/L, 11.0 mL | C(C)[Mg]Br.C(C)OCC
reactant | benzyl (2S)-2-isopropyl-3-oxopyrrolidine-1-carboxylate | 3.92 g | C(C)(C)[C@@H]1N(CCC1=O)C(=O)OCC1=CC=CC=C1 | C15H19NO3
product | benzyl (2S,3S)-3-ethyl-3-hydroxy-2-isopropylpyrrolidine-1-carboxylate | C(C)[C@]1([C@@H](N(CC1)C(=O)OCC1=CC=CC=C1)C(C)C)O | C17H25NO3
